US09215876B2
Attempted preparation of 1,3,6-dioxathiocan-2-one (DXT)
The procedure of Example 1 was followed using 2,2′-thiodiethanol (10.2 g, 83.9 mmol), triethylamine (24.0 mL, 167.8 mmol), dry THF (600 mL) and triphosgene (8.3 g, 28.8 mmol). The filtrate was concentrated yielding only oligomeric compounds.

reactant | 2,2′-thiodiethanol | 83.9 mmol, 10.2 g | S(CCO)CCO | C4H10O2S
reactant | triethylamine | 167.8 mmol, 24.0 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 28.8 mmol, 8.3 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | 1,3,6-dioxathiocan-2-one | O1C(OCCSCC1)=O | C5H8O3S
